US05068325
2-Amino-6-cinnamyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-acetylamino-6-(3-phenyl-propyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine-hydrochloride with semi-concentrated hydrochloric acid. The foam obtained by evaporating to dryness is crystallised from concentrated ethanolic solution with the addition of a little acetone. Yield: 66% of theory, Melting point: 221°-225° C.

reactant | 2-acetylamino-6-(3-phenyl-propyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine-hydrochloride | Cl.C(C)(=O)NC=1SC=2CCN(CCC2N1)CCCC1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 2-Amino-6-cinnamyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=CC=C1 | C16H19N3S
